US06180622B2
b) (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid (stereoisomer A)
Tetrakis(triphenylphosphine)palladium(0) (8.4 mg) is added to a solution of 40.6 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate (stereoisomer A) and 0.045 ml of N-methylaniline in 1. 0 ml of DMF, and the mixture is stirred in an argon atmosphere at room temperature for 35 min. DMF is removed by evaporation under reduced pressure, 3 ml of distilled water is added to the residue, and the mixture is extracted three times with 5 ml of ethyl acetate while removing insolubles. The aqueous layer is concentrated under reduced pressure to distil-off ethyl acetate, and the concentrate is then purified by column chromatography on Cosmosil 40C18-PREP (water-methanol) to give 3.5 mg of the title compound as a colorless flocculent material.

reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 40.6 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(C1=CN2C(S1)=CN=C2)O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O7S2
reactant | N-methylaniline | 0.045 ml | CNC1=CC=CC=C1 | C7H9N
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 8.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 0 ml | CN(C)C=O | C3H7NO
product | (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid | 3.5 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@@H]2CN[C@@H](C2)C(C2=CN3C(S2)=CN=C3)O)C(=O)O)C1=O | C20H24N4O5S2
